US05814648
To a solution of 3-benzyloxybenzoic acid (22 g, 96 mmol) in toluene (200 ml) was added dropwise thionyl chloride (14.1 ml, 19 mmol). The reaction mixture was heated at 90° C. for 2 hours, cooled to ambient temperature and volatiles removed under reduced pressure to afford crude 3-benzyloxybenzoyl chloride (32 g, quant.). The crude 3-benzyloxybenzoyl chloride was dissolved in CH2Cl2 and added dropwise over 30 min., to a vigorously stirred solution of (R)-(-)-2-phenylglycinol (15.8 g, 115 mmol) and triethylamine (16 ml, 15 mmol) in CH2Cl2 (200 ml) cooled to 0° C. The reaction mixture was allowed to warm ambient temperature and stirred for overnight. Solvent was removed under reduced pressure and the residue partitioned between ethyl acetate (1 L) and water (1 L). The aqueous layer was separated, extracted with ethyl acetate (2×500ml) and the combined organic phase washed with 1N HCl (500 ml), aqueous 4% NaHCO3 solution (500 ml) and brine (500 ml), dried over MgSO4 and concentrated under reduced pressure to give 2-(3-benzyloxybenzamido)-2(R)-phenylethan-1-ol (29 g, 88%) as pale yellow solids.

reactant | 3-benzyloxybenzoyl chloride | C(C1=CC=CC=C1)OC=1C=C(C(=O)Cl)C=CC1 | C14H11ClO2
reactant | (R)-(-)-2-phenylglycinol | 115 mmol, 15.8 g | C1(=CC=CC=C1)[C@@H](N)CO | C8H11NO
reactant | triethylamine | 15 mmol, 16 ml | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 200 ml | C(Cl)Cl | CH2Cl2
product | 2-(3-benzyloxybenzamido)-2(R)-phenylethan-1-ol | 29 g, 88% | C(C1=CC=CC=C1)OC=1C=C(C(=O)N[C@@H](CO)C2=CC=CC=C2)C=CC1 | C22H21NO3
